US06184322B2
11-Bromo-1-tetrahydropyranyloxyundecane (34)
50 g (0.199 mol) of 11-bromo-1-undecanol (Aldrich) was dissolved in 500 ml of dichloromethane, and the mixture was cooled to 0° C. 22.15 ml (0.242 mol) of dihydropyran were added dropwise over a period of two hours; the reaction was started by addition of a few crystals of p-toluenesulphonic acid at the beginning of the addition. After the addition was complete, the reaction mixture was stirred for 15 min and stopped by addition of 0.5 g of NaHCO3. After evaporation of the dichloromethane, the pale yellow syrup obtained was dissolved in ethyl acetate and purified by filtration through silica gel. Yield=65.3 g (98%).

reactant | 11-bromo-1-undecanol | 0.199 mol, 50 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | dihydropyran | 0.242 mol, 22.15 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | 0.5 g | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-Bromo-1-tetrahydropyranyloxyundecane | BrCCCCCCCCCCCOC1OCCCC1 | C16H31BrO2
